US08304419B2
N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-phenyl-1,2,3-thiadiazole-5-carboxamide
In a 1 dram vial, 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (25 mg, 0.080 mmol), DIPEA (0.014 mL, 0.080 mmol) and 4-phenyl-1,2,3-thiadiazole-5-carboxylic acid (16.57 mg, 0.080 mmol) were dissolved in DMF (1 mL). HATU was added (30.6 mg, 0.080 mmol) and the solution stirred overnight. The reaction mixture was diluted to 2 mL with MeOH. Purification was accomplished by Reverse-Phase HPLC (water/acetonitrile with 0.1% TFA) to afford the title compound (0.015 g, 35%) as a tan solid. 1H NMR (400 MHz, Acetone-d6): 6 ppm 8.51 (br. s., 1H), 7.80-7.90 (m, 2H), 7.63 (t, 1H), 7.45-7.51 (m, 3H), 7.38-7.45 (m, 2H), 7.33-7.38 (m, 2H), 4.65 (d, 2H). LCMS m/z 498.9 (M+1).

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.080 mmol, 25 mg | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | DIPEA | 0.080 mmol, 0.014 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-phenyl-1,2,3-thiadiazole-5-carboxylic acid | 0.080 mmol, 16.57 mg | C1(=CC=CC=C1)C=1N=NSC1C(=O)O | C9H6N2O2S
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-phenyl-1,2,3-thiadiazole-5-carboxamide | 0.015 g, 35% | ClC1=C(C(=C(C=C1)CNC(=O)C1=C(N=NS1)C1=CC=CC=C1)F)OC1=CC(=CC(=C1)C#N)Cl | C23H13Cl2FN4O2S
